US06982350B2
Step A: 4,5-Dimethoxy-1-(aminomethyl)-benzocyclobutane:
Introduce 4,5-dimethoxy-1-cyano-benzocyclobutane (6 kg), methanol (30 liters), Raney nickel (0.6 liters) and ammonia (7.32 kg) into a hydrogenator. After having purged with nitrogen and then with hydrogen, hydrogenate at 60° C. and at 30 bar until the theoretical amount of hydrogen has been absorbed. After returning to 20° C., filter off the catalyst, rinsing it with methanol, and then evaporate off the solvent. The title compound is obtained in the form of an oil, in a quantitative yield.

reactant | 4,5-dimethoxy-1-cyano-benzocyclobutane | 6 kg | COC1=CC2=C(C(C2)C#N)C=C1OC | C11H11NO2
reactant | ammonia | 7.32 kg | N | H3N
catalyst | Raney nickel | 0.6 liters | [Ni] | Ni
solvent | methanol | 30 liters | CO | CH4O
product | 4,5-Dimethoxy-1-(aminomethyl)-benzocyclobutane | quantitative yield | COC1=CC2=C(C(C2)CN)C=C1OC | C11H15NO2
